US04179501
A. trans-N-Benzyl-N-[2-(dimethylamino)-cyclohexyl]formamide p-toluenensulfonate (1:1)
A solution of trans-N-benzyl-N,N'-dimethyl-1,2-cyclohexanediamine (9.29 g.; 0.04 mole) in 40 ml. of formic acid was refluxed 20 hours, added and poured into 200 g. of ice. It was basified with 15% NaOH and extracted well with ether. The extract was washed with H2O, saturated salt solution, dried (MgSO4) and evaporated. The residue (9.7 g.) was converted to the salt with 2 mole of p-TSA in ether. The resulting gum was crystallized from MeOH-ether to give 13.64 g.; of the titled compound, m.p. 201°-202.5°. The analytical sample melted at 202°-203°. uv sh 210 nm (ε 27,850); sh 222 (25,600); sh 227 (12,350); sh 243 (302); sh 248 (375); λ max 254 (472); 258 (556); 261 (562); 268 (399); sh 272 (175). ir N + H 2720, 2560; C=O 1670, 1650; C=C 1600, 1495; SO3 /ether 1225, 1170, 1120, 1030, 1010, 815, 705, 685. nmr in D2O (100 MHz) was in accord. Mass spectrum M+ 260.

reactant | trans-N-benzyl-N,N'-dimethyl-1,2-cyclohexanediamine | 0.04 mole, 9.29 g | C(C1=CC=CC=C1)N([C@H]1[C@@H](CCCC1)NC)C | C15H24N2
reactant | formic acid | C(=O)O | CH2O2
reactant | NaOH | [OH-].[Na+]
reactant | p-TSA | 2 mole | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | ether | CCOCC | C4H10O
product | trans-N-Benzyl-N-[2-(dimethylamino)-cyclohexyl]formamide | C(C1=CC=CC=C1)N(C=O)[C@H]1[C@@H](CCCC1)N(C)C | C16H24N2O
